US07741341B2
20 mg (0.04 mmol) 1-(3-Methoxy-benzyl)-2-[4-(3-oxo-morpholin-4-yl)-phenylcarbamoyl]-1H-benzoimidazole-4-carboxylic acid methyl ester were suspended in 5 mL MeOH. 194 μl (0.19 mmol) of an aqueous 1 M LiOH-solution were added and the resulting mixture was stirred for 8 h at 60° C. After acidification with a 1 M HCL-solution the mixture was concentrated. The resulting residue was purified by preparative HPLC (CH3CN/H2O gradient+0.05% formic acid) to give pure 1-(3-Methoxy-benzyl)-2-[4-(3-oxo-morpholin-4-yl)-phenylcarbamoyl]-1H-benzoimidazole-4-carboxylic acid as a colorless amorphous solid. Yield: 44 mg MS (ES+): m/e=501.

reactant | 1-(3-Methoxy-benzyl)-2-[4-(3-oxo-morpholin-4-yl)-phenylcarbamoyl]-1H-benzoimidazole-4-carboxylic acid methyl ester | 0.04 mmol, 20 mg | COC(=O)C1=CC=CC=2N(C(=NC21)C(NC2=CC=C(C=C2)N2C(COCC2)=O)=O)CC2=CC(=CC=C2)OC | C28H26N4O6
reactant | LiOH | 1 M | [Li+].[OH-]
solvent | MeOH | 5 mL | CO | CH4O
product | 1-(3-Methoxy-benzyl)-2-[4-(3-oxo-morpholin-4-yl)-phenylcarbamoyl]-1H-benzoimidazole-4-carboxylic acid | COC=1C=C(CN2C(=NC3=C2C=CC=C3C(=O)O)C(NC3=CC=C(C=C3)N3C(COCC3)=O)=O)C=CC1 | C27H24N4O6
